US05294710
(a) N-butyloxycarbonyl-amino malonic acid diethyl ester (R=OBu)
To an ice-cold suspension of 15 g (70.87 mmol) of amino malonic acid ethyl ester hydrochloride in 180 ml of methylene chloride, 10.8 g (75 mmol) of chloroformic acid butyl ester and then 14.7 g (145 mmol) of triethylamine were added within several minutes. In this case the temperature was constantly maintained under 20° C. After the addition was completed, the reaction was stirred for another 75 minutes at room temperature. The reaction solution was diluted with 80 ml of CH2Cl2, washed with two portions of water, and dried on Na2SO4. After concentration by evaporation on a rotary evaporator, 18.8 g (96 percent) of pure title product was obtained. Other data concerning the product was:

reactant | amino malonic acid ethyl ester hydrochloride | 70.87 mmol, 15 g | Cl.C(C)OC(C(C(=O)O)N)=O
reactant | chloroformic acid butyl ester | 75 mmol, 10.8 g | C(CCC)OC(=O)Cl | C5H9ClO2
reactant | triethylamine | 145 mmol, 14.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | N-butyloxycarbonyl-amino malonic acid diethyl ester | 18.8 g, 96 percent | C(C)OC(C(C(=O)OCC)NC(=O)OCCCC)=O | C12H21NO6
